US07109229B2
(c) 1,1-Dimethyl-3-{3-[4-(1-methyl-1H-indol-7-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-1H-indol-7-ylmethyl}-urea
A 1.0 M solution of KOtBu in THF (4.77 ml, 4.77 mmol) was added to a solution of 2-(1-methyl-1H-indol-7-yl-acetamide (0.3 g, 1.59 mmol) and [7-(tert-Butoxycarbonylamino-methyl)-1H-indol-3-yl]-oxo-acetic acid methyl ester (0.53 g, 1.59 mmol) in DMF (15 ml) at room temperature. The reaction was heated at 140° C. for 4 h, allowed to cool to room temperature quenched with pH 7 buffer. The mixture was poured into EtOAc, extracted, washed with saturated aq NaHCO3, brine, dried (MgSO4), filtered, and concentrated onto SiO2. Flash chromatography (50:50 ethyl acetate: hexanes) afforded the title compound (0.1 g, 14%) as an orange solid. MS (electrospray, m/z) 442.2 (M++1), 440.3 (M−−1).

reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | THF | 4.77 mmol, 4.77 ml | C1CCOC1 | C4H8O
reactant | 1-methyl-1H-indol-7-yl-acetamide | 1.59 mmol, 0.3 g | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | [7-(tert-Butoxycarbonylamino-methyl)-1H-indol-3-yl]-oxo-acetic acid methyl ester | 1.59 mmol, 0.53 g | COC(C(=O)C1=CNC2=C(C=CC=C12)CNC(=O)OC(C)(C)C)=O | C17H20N2O5
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1,1-Dimethyl-3-{3-[4-(1-methyl-1H-indol-7-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-1H-indol-7-ylmethyl}-urea | 0.1 g, 14% | CN(C(=O)NCC=1C=CC=C2C(=CNC12)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O)C | C25H23N5O3
